US05250547
A solution of 6-nitro-2,2-dimethyl-3-(2-hydroxyethylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.44 g, 1.18 mmol) in diethylether was treated with excess ethanolic hydrochloric acid (2M) and the resulting precipitate isolated by filtration, to give 0.36 g of 6-nitro-2,2-dimethyl-3-(2-hydroxyethylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran hydrochloride, m.p. 225° C.

reactant | 6-nitro-2,2-dimethyl-3-(2-hydroxyethylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 1.18 mmol, 0.44 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CNCCO)N2C(C=CC=C2)=O)C1 | C19H21N3O5
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | diethylether | C(C)OCC | C4H10O
product | 6-nitro-2,2-dimethyl-3-(2-hydroxyethylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran hydrochloride | 0.36 g | Cl.[N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CNCCO)N2C(C=CC=C2)=O)C1 | InChI=1S/C19H21N3O5.ClH/c1-19(2)15(12-20-8-10-23)18(21-9-4-3-5-17(21)24)14-11-13(22(25)26)6-7-16(14)27-19;/h3-7,9,11,20,23H,8,10,12H2,1-2H3;1H
